US08624040B2
A mixture of ethyl 3-methylthieno[3,2-c]pyridine-2-carboxylate (4 g, 0.018 mol) and PtO2 (0.5 g, 0.002 mol) in ethanol (100 mL) was stirred under an H2 atmosphere (3 atmospheres) for 72 hours at room temperature. The PtO2 was removed by filtration, the filtrate was concentrated under reduced pressure and the residue obtained was purified by silica gel chromatography (DCM/EtOH=10:1) to afford ethyl 3-methyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate (1.6 g, 40%). ES+ 226; 1H NMR (400 MHz, DMSO) δ 4.24 (q, J=7.1 Hz, 2H), 3.93 (s, 2H), 3.21 (t, J=5.9 Hz, 2H), 2.89 (t, J=5.7 Hz, 2H), 2.55 (s, 1H), 2.34 (s, 3H), 1.26 (t, J=6.0 Hz, 3H).

reactant | ethyl 3-methylthieno[3,2-c]pyridine-2-carboxylate | 0.018 mol, 4 g | CC1=C(SC2=C1C=NC=C2)C(=O)OCC | C11H11NO2S
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | PtO2 | 0.002 mol, 0.5 g | O=[Pt]=O
product | ethyl 3-methyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylate | 1.6 g, 40% | CC1=C(SC2=C1CNCC2)C(=O)OCC | C11H15NO2S
